US04824958
Ethyl 4,5-dibromo-3-(1-methylethoxy)-1-(phenylmethyl)-1H-pyrrole-2-carboxylate.
Prepared using the method described in Example 107 from ethyl 4,5-dibromo-3-hydroxy-1-(phenylmethyl)-1H-pyrrole-2-carboxylate (3.2 g, 0.008 moles), potassium tert-butoxide (1.0 g, 0.009 moles) and 2-bromopropane (2.0 g, 0.016 moles). The product crystallized upon aqueous workup and was filtered off, rinsed with water and dried to afford the pure product (3.0 g); mp 46°-48° C.

reactant | ethyl 4,5-dibromo-3-hydroxy-1-(phenylmethyl)-1H-pyrrole-2-carboxylate | 0.008 moles, 3.2 g | BrC=1C(=C(N(C1Br)CC1=CC=CC=C1)C(=O)OCC)O | C14H13Br2NO3
reactant | potassium tert-butoxide | 0.009 moles, 1.0 g | CC(C)([O-])C.[K+]
reactant | 2-bromopropane | 0.016 moles, 2.0 g | BrC(C)C | C3H7Br
product | Ethyl 4,5-dibromo-3-(1-methylethoxy)-1-(phenylmethyl)-1H-pyrrole-2-carboxylate | 3.0 g | BrC=1C(=C(N(C1Br)CC1=CC=CC=C1)C(=O)OCC)OC(C)C | C17H19Br2NO3
